US05644024
A solution of 298 mg (0.48 mmol) of tert.-butyl 3-[(S)-7-benzyloxycarbonylamino-7-trimethylsilylethoxycarbonyl-5,6,7,8-tetrahydro-naphthalen-1-yloxy]nicotinate in 5 ml of ethanol was hydrogenated under a hydrogen atmosphere with 80 mg of palladium-charcoal (10%) at room temperature for 1 hour, whereupon the mixture was filtered over Hyflo and the filtrate was concentrated. The residue was dried in a high vacuum and chromatographed on 50 g of silica gel with chloroform/methanol (95:5), whereupon 190 mg (81.7%) of tert.-butyl 3-[(S)-7-amino-7-trimethylsilylethoxycarbonyl-5,6,7,8-tetrahydro-naphthalen-1-yloxy]-nicotinate were obtained. MS (ISP): 485.5 (M+. +H+, 50), 429 (15), 401.3 (100).

reactant | tert.-butyl 3-[(S)-7-benzyloxycarbonylamino-7-trimethylsilylethoxycarbonyl-5,6,7,8-tetrahydro-naphthalen-1-yloxy]nicotinate | 0.48 mmol, 298 mg | C(C1=CC=CC=C1)OC(=O)N[C@]1(CCC=2C=CC=C(C2C1)OC1(C(=O)OC(C)(C)C)CN=CC=C1)C(=O)OCC[Si](C)(C)C | C34H44N2O7Si
solvent | ethanol | 5 ml | C(C)O | C2H6O
catalyst | palladium-charcoal | 80 mg | [Pd] | Pd
product | tert.-butyl 3-[(S)-7-amino-7-trimethylsilylethoxycarbonyl-5,6,7,8-tetrahydro-naphthalen-1-yloxy]-nicotinate | 190 mg, 81.7% | N[C@]1(CCC=2C=CC=C(C2C1)OC1(C(=O)OC(C)(C)C)CN=CC=C1)C(=O)OCC[Si](C)(C)C | C26H38N2O5Si
